US08877760B2
(R)-5-(1-amino-1-oxobutan-2-ylamino)-3-(3-methylisothiazol-5-ylamino)pyrazine-2-carboxamide
The compound (R)-2-(5-cyano-6-(3-methylisothiazol-5-ylamino)pyrazin-2-ylamino)butanamide (106 mg, 0.334 mmol) was dissolved in EtOH (2 mL) and DMSO (1 mL), aq. 1N NaOH (1.0 mL) and aq. H2O2 (30%, 1.0 mL) were added. The mixture was stirred at room temperature for 15 min. HOAc (0.1 mL) was added. The mixture was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (38 mg). MS found for C13H17N7O2S as (M+H)+ MS 336.2; UV 206.0, 275.0, 323.1 nm; t 0.365 min. 1H NMR: (CD3OD) δ 7.70 (s, 1H), 6.88 (s, 1H), 4.65 (br.s, 1H), 2.45 (s, 3H), 2.18-2.05 (m, 1H), 1.96-1.87 (m, 1H), 1.10 (t, 3H).

reactant | (R)-2-(5-cyano-6-(3-methylisothiazol-5-ylamino)pyrazin-2-ylamino)butanamide | 0.334 mmol, 106 mg | C(#N)C=1N=CC(=NC1NC1=CC(=NS1)C)N[C@@H](C(=O)N)CC | C13H15N7OS
reactant | NaOH | 1N, 1.0 mL | [OH-].[Na+]
reactant | H2O2 | 1.0 mL | OO | H2O2
reactant | HOAc | 0.1 mL | CC(=O)O | C2H4O2
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (R)-5-(1-amino-1-oxobutan-2-ylamino)-3-(3-methylisothiazol-5-ylamino)pyrazine-2-carboxamide | 38 mg | NC([C@@H](CC)NC=1N=C(C(=NC1)C(=O)N)NC1=CC(=NS1)C)=O | C13H17N7O2S
